US07238716B2
A mixture of 4-methoxymethoxymethyl-2-phenyl-5-propyloxazole (2.64 g), 10% sulfuric acid (10 mL) and tetrahydrofuran (100 mL) was heated under reflux for 24 hrs. To the reaction mixture was added ethyl acetate, and the mixture was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give (2-phenyl-5-propyl-4-oxazolyl)methanol as a colorless oil (2.10 g, 96%).

reactant | 4-methoxymethoxymethyl-2-phenyl-5-propyloxazole | 2.64 g | COCOCC=1N=C(OC1CCC)C1=CC=CC=C1 | C15H19NO3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-phenyl-5-propyl-4-oxazolyl)methanol | 2.10 g, 96% | C1(=CC=CC=C1)C=1OC(=C(N1)CO)CCC | C13H15NO2
